US06080781
Synthesis of 2-methoxy[(3-methoxy-4-ethoxyphenyl)methylene]-6-methoxy-1-tetralone
After 6-methoxy-1-tetralone 1.0 g and 3-methoxy-4-ethoxybenzaldehyde 1.27 g were added to a mixture of concentrated hydrochloric acid 60 ml and methanol 50 ml, the mixture was refluxed for 2.5 hours. The reaction mixture was cooled to room temperature, and ethyl acetate 100 ml was added. The ethyl acetate solution was washed with water 100 ml twice and saturated salt solution 100 ml twice. The ethyl acetate solution was dehydrated with magnesium sulfate, and concentrated to 20 ml at 40° C. under reduced pressure. The precipitated crystals were filtered. The crystals were dried over phosphorous pentoxide for four hours under reduced pressure to obtain the desired compound 0.89 g.

reactant | 6-methoxy-1-tetralone | 1.0 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | 3-methoxy-4-ethoxybenzaldehyde | 1.27 g | COC=1C=C(C=O)C=CC1OCC | C10H12O3
reactant | hydrochloric acid | 60 ml | Cl | ClH
reactant | methanol | 50 ml | CO | CH4O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-methoxy[(3-methoxy-4-ethoxyphenyl)methylene]-6-methoxy-1-tetralone | 0.89 g | COC1C(C2=CC=C(C=C2CC1=CC1=CC(=C(C=C1)OCC)OC)OC)=O | C22H24O5
